US03932629
e. 1-isobutyl-5-chloro-3-hydroxy-1,2,4-triazole
241 g of 1-isobutyl-3-hydroxy-1,2,4-triazole and 475 ml of triethylamine are dissolved in 2100 ml of absolute ethanol, and 182 g of chlorine are passed in while cooling at 20°-30°C. The solution is stirred for 1 1/4 hours at room temperature, after which the triethylamine hydrochloride is filtered off. The filtrate is concentrated in a rotary evaporator, the residue dissolved in 1000 ml of ether and 1000 ml of water are added. The phases are separated and the aqueous phase is extracted 3 times with 300 ml of ether each time. The ether phase is dried and concentrated. The residue is recrystallised from ligroin/xylene. Yield: 104.7 g (34 % of theory); m.p. 84°-86°C.

reactant | 1-isobutyl-3-hydroxy-1,2,4-triazole | 241 g | C(C(C)C)N1N=C(N=C1)O | C6H11N3O
reactant | triethylamine | 475 ml | C(C)N(CC)CC | C6H15N
reactant | chlorine | 182 g | ClCl | Cl2
solvent | ethanol | 2100 ml | C(C)O | C2H6O
product | 1-isobutyl-5-chloro-3-hydroxy-1,2,4-triazole | C(C(C)C)N1N=C(N=C1Cl)O | C6H10ClN3O
